US06864284B2
Synthesis of 6-Deoxyaminoascorbate Lysine
6-Deoxyamino ascorbate (5 mmoles) is reacted with lysyl chloride (7 mmoles) in dry pyridine and the reaction product is worked up according to Cousine et al. It is crystallized from ethanol.

reactant | 6-Deoxyamino ascorbate | 5 mmoles | N[C@]1(C(=C(C(=O)O1)O)[O-])[C@@H](O)C
reactant | lysyl chloride | 7 mmoles | N[C@@H](CCCCN)C(=O)Cl | C6H13ClN2O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 6-Deoxyaminoascorbate Lysine | N[C@@H](CCCCN)C(=O)O.N[C@]1(C(=C(C(=O)O1)O)[O-])[C@@H](O)C | InChI=1S/C6H14N2O2.C6H9NO5/c7-4-2-1-3-5(8)6(9)10;1-2(8)6(7)4(10)3(9)5(11)12-6/h5H,1-4,7-8H2,(H,9,10);2,8-10H,7H2,1H3/p-1/t5-;2-,6+/m00/s1
